US07482456B2
Step 1: 2-[5-(tributylstannyl)-1,3-thiazol-2-yl]propan-2-ol
To a solution of thiazole (1.0 eq) in THF (0.2M) at −78° C. was added nBuLi (1.6M, 1.1 eq). After 1 h at −78° C., acetone (1.0 eq) was added and the mixture stirred 30 min at −78° C., 5 min −50° C. then cooled back to −78° C. to add a second equivalent of nBuLi (1.6M, 1.1 eq). After 1.5 h at −78° C., tri-n-butyltin chloride (1.2 eq) was added and the mixture stirred 12 h at −78° C. The reaction mixture was diluted with Et2O and a solution of NH4Cl. The organic extracts were washed with water, brine, dried over MgSO4, filtered and concentrated. Flash chromatography (Hexane:EtOAc, 90:10) afforded the title compound.

reactant | thiazole | 1.0 eq | S1C=NC=C1 | C3H3NS
reactant | nBuLi | 1.6M, 1.1 eq | [Li]CCCC
reactant | acetone | 1.0 eq | CC(=O)C | C3H6O
reactant | nBuLi | 1.6M, 1.1 eq | [Li]CCCC
reactant | tri-n-butyltin chloride | 1.2 eq | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 0.2M | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 2-[5-(tributylstannyl)-1,3-thiazol-2-yl]propan-2-ol | C(CCC)[Sn](C1=CN=C(S1)C(C)(C)O)(CCCC)CCCC | InChI=1S/C6H8NOS.3C4H9.Sn/c1-6(2,8)5-7-3-4-9-5;3*1-3-4-2;/h3,8H,1-2H3;3*1,3-4H2,2H3;
